US07754737B2
A solution of p-TsOH.H2O (25 mg) in ethanol (0.5 mL) was added to 1-(3-(t-butoxy-carbonylamino)-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propyl)cyclohexanol (50 mg, 0.12 mmol) dissolved in ether (12 mL). The transfer was completed with additional ether (2 mL). The resulting solution was evaporated under reduced pressure at rt to remove Et2O and heated at 60-65° C. for 20 min under reduced pressure to remove ethanol. The residue was dissolved in MeOH and aqueous K2CO3 was added. The mixture was evaporated and extracted with EtOAc (3×). The combined organic phases were dried over Na2SO4, filtered and evaporated to give 1-(3-amino-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propyl)cyclohexanol (43 mg, 89%). MS m/z 453 (M+Na+).

reactant | p-TsOH.H2O | 25 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | 1-(3-(t-butoxy-carbonylamino)-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propyl)cyclohexanol | 0.12 mmol, 50 mg | C(C)(C)(C)OC(=O)NCC(CC1(CCCCC1)O)N(C(=O)OCC[Si](C)(C)C)C | C21H42N2O5Si
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | ether | 12 mL | CCOCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
product | 1-(3-amino-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propyl)cyclohexanol | 43 mg, 89% | NCC(CC1(CCCCC1)O)N(C(=O)OCC[Si](C)(C)C)C | C16H34N2O3Si
